### PR TITLE
[Merged by Bors] - chore: adapt to multiple goal linter 2

### PR DESCRIPTION
**Pull request by adomani**
A PR analogous to #12338: reformatting proofs following the multiple goals linter of #12339.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Selmer.lean [hunk 1]
```diff
@@ -57,14 +57,14 @@ theorem X_pow_sub_X_sub_one_irreducible (hn1 : n ≠ 1) : Irreducible (X ^ n - X
...
-  rw [h1] at h2 ⊢
-  exact ⟨rfl, by linear_combination -h2⟩
+  · rw [trinomial_mirror zero_lt_one hn (-1 : ℤˣ).ne_zero (1 : ℤˣ).ne_zero] at h2
+    simp_rw [trinomial, aeval_add, aeval_mul, aeval_X_pow, aeval_C,
+      Units.val_neg, Units.val_one, map_neg, map_one] at h1 h2
+    replace h1 : z ^ n = z + 1 := by linear_combination h1
+    replace h2 := mul_eq_zero_of_left h2 z
+    rw [add_mul, add_mul, add_zero, mul_assoc (-1 : ℂ), ← pow_succ, Nat.sub_add_cancel hn.le] at h2
+    rw [h1] at h2 ⊢
+    exact ⟨rfl, by linear_combination -h2⟩
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Selmer.lean:67]: I don't understand this change: there doesn't seem to be an alternative goal here?

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Expand.lean [hunk 2]
```diff
@@ -156,9 +156,9 @@ theorem cyclotomic_mul_prime_pow_eq (R : Type*) {p m : ℕ} [Fact (Nat.Prime p)]
     have hdiv : p ∣ p ^ a.succ * m := ⟨p ^ a * m, by rw [← mul_assoc, pow_succ']⟩
     rw [pow_succ', mul_assoc, mul_comm, cyclotomic_mul_prime_dvd_eq_pow R hdiv,
       cyclotomic_mul_prime_pow_eq _ _ a.succ_pos, ← pow_mul]
-    congr 1
-    simp only [tsub_zero, Nat.succ_sub_succ_eq_sub]
-    rwa [Nat.mul_sub_right_distrib, mul_comm, pow_succ]
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Expand.lean:161]: Does this mean that `rwa` used `assumption` on a different goal than the one it rewrote? :O

File: Mathlib/Analysis/Fourier/PoissonSummation.lean [hunk 3]
```diff
@@ -174,9 +174,9 @@ theorem isBigO_norm_Icc_restrict_atBot {f : C(ℝ, E)} {b : ℝ} (hb : 0 < b)
   rintro ⟨x, hx⟩
   rw [ContinuousMap.restrict_apply_mk]
   refine' (le_of_eq _).trans (ContinuousMap.norm_coe_le_norm _ ⟨-x, _⟩)
-  rw [ContinuousMap.restrict_apply_mk, ContinuousMap.comp_apply, ContinuousMap.coe_mk,
-    ContinuousMap.coe_mk, neg_neg]
-  exact ⟨by linarith [hx.2], by linarith [hx.1]⟩
+  · rw [ContinuousMap.restrict_apply_mk, ContinuousMap.comp_apply, ContinuousMap.coe_mk,
+      ContinuousMap.coe_mk, neg_neg]
+    exact ⟨by linarith [hx.2], by linarith [hx.1]⟩
```
Comment (Vierkantor) [inline Mathlib/Analysis/Fourier/PoissonSummation.lean:179]: Does this really deserve to be indented?

File: Mathlib/RingTheory/Norm.lean [hunk 4]
```diff
@@ -275,16 +275,16 @@ theorem prod_embeddings_eq_finrank_pow [Algebra L F] [IsScalarTower K L F] [IsAl
...
-    ← Finset.univ_sigma_univ, Finset.prod_sigma, ← Finset.prod_pow]
-  refine Finset.prod_congr rfl fun σ _ => ?_
-  · letI : Algebra L E := σ.toRingHom.toAlgebra
-    simp_rw [Finset.prod_const]
-    congr
-    exact AlgHom.card L F E
-  · intro σ
-    simp only [algHomEquivSigma, Equiv.coe_fn_mk, AlgHom.restrictDomain, AlgHom.comp_apply,
-      IsScalarTower.coe_toAlgHom']
+  · rw [Fintype.prod_equiv algHomEquivSigma (fun σ : F →ₐ[K] E => _) fun σ => σ.1 pb.gen,
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Norm.lean:278]: (Can't add a suggestion here.) Should this be instead something like:
```lean
  letI : ∀ f : L →ₐ[K] E, Fintype (@AlgHom L F E _ _ _ _ f.toRingHom.toAlgebra) := by
    ...
```
?

**Review by Vierkantor — COMMENTED** [review]
LGTM otherwise. Thanks for this huge cleanup!

File: Mathlib/RingTheory/Polynomial/Selmer.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/RingTheory/Polynomial/Selmer.lean:67]: The extra goal is figuring out what `n` should be.  It is the exponent of `z` that you see on line 63, that gets unified only on the penultimate line, with the `rw`.

I decided to give the hint to `apply` that `(n := n)` to avoid the extra goal and the indentation.

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Expand.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Expand.lean:161]: Indeed: see also [this thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.60rwa.60.20and.20its.20doc-string)!

File: Mathlib/Analysis/Fourier/PoissonSummation.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Analysis/Fourier/PoissonSummation.lean:179]: At that point, there are two goals, the second being
```lean
-x ∈ Icc (-x✝ + -S) (-x✝ + -R)
```
I do not understand though how Lean solves this one.

File: Mathlib/RingTheory/Norm.lean (hunk 4 above)
Comment (adomani) [reply Mathlib/RingTheory/Norm.lean]: This was puzzling: the `letI` created an extra goal, wanting to figure out some function.  I could not understand where this was used and removing the `letI` line simply worked!

Maybe this was an instance of an "unused `letI`"?  Is there an "unused have/let" linter?  Does it check for `letI`?

**Comment by adomani** [comment]
Anne, thank you very much for your review!

File: Mathlib/Analysis/Fourier/PoissonSummation.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/Analysis/Fourier/PoissonSummation.lean:179]: Oh, I think that I see now

The "first goal" becomes identical to the second one after the `rw`.  So, I guess that the final `exact` solves the current goal and then Lean realizes that it already knows how to solve that goal and closes the second one as well.

**Comment by jcommelin** [comment]
bors d+
